US07750040B2
To a solution of (1R,5S)-2-[1-chloro-propylidene]-6,6-dimethyl-bicyclo[3.1.0]hexan-3-one (11.0 g, 55.4 mmol) in THF (40 mL) a solution of ethyl-2-mercaptoacetate (9.6 mL, 87.2 mmol) in a freshly prepared solution of Na (3.9 g, 170 mmol) in ethanol (95 mL) is added at 30° C. The reaction mixture is stirred at 30° C. for 2 h before it is diluted with EA and washed with 1 N aq. NaOH and brine. The organic extracts are dried over Na2SO4 and the solvent is removed in vacuo. The resulting brown oil (9.66 g) is dissolved in ethanol (365 mL) and diluted with 1 N aq. LiOH (365 mL). The mixture is refluxed for 1 h before the organic solvent is removed in vacuo. Solid material is filtered off and the filtrate is extracted twice with diethyl ether. The organic layer is extracted back with 1 N aq. LiOH and brine. The aq. extracts are acidified with aq. HCl (37%). The precipitate that formes is collected, washed with water followed by hexane, and dried under high vacuum to give rac-(1aS,5aR)-2-ethyl-1,1-dimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid (3.6 g) as beige crystals. From the hexane washings a second crop (2.37 g) is obtained after evaporation of the solvent; LC-MS: tR=0.99 min, [M+1]+=237.24, 1H NMR (CDCl3): δ 3.00 (dd, J=5.9, 19.3 Hz, 1H), 2.84-2.70 (m, 3H), 1.92-1.86 (m, 2H), 1.28 (t, J=7.0 Hz, 3H), 1.12 (s, 3H), 0.70 (s, 3H).

reactant | (1R,5S)-2-[1-chloro-propylidene]-6,6-dimethyl-bicyclo[3.1.0]hexan-3-one | 55.4 mmol, 11.0 g | ClC(CC)=C1[C@H]2C([C@H]2CC1=O)(C)C | C11H15ClO
reactant | ethyl-2-mercaptoacetate | 87.2 mmol, 9.6 mL | C(C)OC(CS)=O | C4H8O2S
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | ethanol | 95 mL | C(C)O | C2H6O
solvent | EA | CC(OCC)=O | C4H8O2
product | rac-(1aS,5aR)-2-ethyl-1,1-dimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid | 3.6 g | C(C)C=1SC(=C2CC3C(C12)C3(C)C)C(=O)O | C13H16O2S
